US08119676B2
Methyl (3-methoxyphenyl)acetate
A solution of 25.0 g (150 ml) of (3-methoxyphenyl)acetic acid in dry methanol (250 ml) was mixed with 2 ml of conc. sulfuric acid and heated under reflux for 16 h. The cooled reaction solution was concentrated in vacuo, added to ice-water and extracted four times with 70 ml of ethyl acetate each time. The combined organic extracts were washed with saturated NaCl solution and dried over magnesium sulfate, and the solvent was removed in vacuo. Yield: 28.3 g (100%) of colorless oil

reactant | (3-methoxyphenyl)acetic acid | 150 ml, 25.0 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 250 ml | CO | CH4O
product | Methyl (3-methoxyphenyl)acetate | COC=1C=C(C=CC1)CC(=O)OC | C10H12O3
